US06610707B1
tert-Butyl 4-(3-[((Z)-Amino(2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidylmethylidene)amino]oxy-3-oxopropyl)-1-piperazinecarboxylate
The title compound was prepared by a similar method to Preparation 5 from (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide [see Preparation 28] and 3-[4-(tert-butoxycarbonyl)piperazino]propanoic acid [see Preparation 90] to afford tert-butyl 4-(3-[((Z)-amino(2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidylmethylidene)amino]oxy-3-oxopropyl)-1-piperazinecarboxylate as a brown oil.

reactant | (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)/C(/N)=N/O | C13H25N3O3S
reactant | 3-[4-(tert-butoxycarbonyl)piperazino]propanoic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(=O)O | C12H22N2O4
product | tert-butyl 4-(3-[((Z)-amino(2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidylmethylidene)amino]oxy-3-oxopropyl)-1-piperazinecarboxylate | N\C(\[C@H]1N(CCCC1)S(=O)(=O)CC1CCCCC1)=N/OC(CCN1CCN(CC1)C(=O)OC(C)(C)C)=O | C25H45N5O6S
